US06777440B2
Compound 3-A: 4-Fluoro-benzaldehyde-O-methyl-oxime
A solution of methoxylamine hydrochloride (13.4 g, 0.16 mol) in a mixture of water (150 ml) and tetrahydrofuran (50 ml) was treated with sodium acetate (11.2 g, 0.136 mol) followed by 4-fluorobenzaldehyde (11.57 g, 93.2 mmol) and the resulting mixture was stirred at 22° C. for 4 hours. The reaction mixture was then diluted with ether, washed with brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure gave 14.3 g of the crude title material as a clear oil which was used as such for the next step. Distillation of an aliquot in vacuo gave a clear oil; bp 45-50° C./0.5 torr. 1HNMR 400 MHz (CDCl3) δ (ppm): 3.99 (3H, s), 7.09 (2H, m), 7.6 (2H, m), 8.06 (1H, s).

reactant | methoxylamine hydrochloride | 0.16 mol, 13.4 g | Cl.O(C)N
reactant | sodium acetate | 0.136 mol, 11.2 g | C(C)(=O)[O-].[Na+]
reactant | 4-fluorobenzaldehyde | 93.2 mmol, 11.57 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Fluoro-benzaldehyde-O-methyl-oxime | 14.3 g | CON=CC1=CC=C(C=C1)F | C8H8FNO
